US07053212B2
To a solution of 4-methoxy-N-[4-(3-morpholin-4-yl-3-oxo-propenyl)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide (0.028 g, 0.05 mmol) in 15 mL methanol was added 5 mL of 1N HCl. The reaction mixture was stirred at room temperature for 20 hr. The reaction mixture was washed twice with methylene chloride. The combined organic layers were washed with saturated aqueous sodium bicarbonate, dried (magnesium sulfate), and concentrated. Radial chromatography (methylene chloride to 5% methanol/methylene chloride) provided N-(4-hydroxy-benzyl)-4-methoxy-N-[4-(3-morpholin-4-yl-3-oxo-propenyl)-phenyl]-benzenesulfonamide. 1H NMR (CDCl3) δ 7.54 (d, 2H, J=9.2 Hz), 7.52 (d, 1H, J=15.2 Hz), 7.27 (d, 2H, J=8.4 Hz), 6.99 (d, 2H, J=8.4 Hz), 6.92 (d, 2H, J=8.8 Hz), 6.91 (d, 2H, J=9.2 Hz), 6.71 (d, 1H, J=15.2 Hz), 6.63 (d, 2H, J=8.4 Hz), 4.59 (s, 2H), 3.85 (s, 3H), 3.75–3.55 (m, 8H).

reactant | 4-methoxy-N-[4-(3-morpholin-4-yl-3-oxo-propenyl)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.05 mmol, 0.028 g | COC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)C=CC(=O)N1CCOCC1 | C32H36N2O7S
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | N-(4-hydroxy-benzyl)-4-methoxy-N-[4-(3-morpholin-4-yl-3-oxo-propenyl)-phenyl]-benzenesulfonamide | OC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)C=CC(=O)N2CCOCC2)C=C1 | C27H28N2O6S
